US04857543
Methyl 2-amino-2-(2-thienyl)butyrate (11.94 g) is dissolved in hexamethylphosphoric triamide (200 ml), and ethyl iodide (28.7 g) and potassium carbonate (37.3 g) is added thereto. The mixture is stirred at room temperature for 4 hours and further stirred at 70° C. for one hour. Water is added to the reaction mixture and the mixture is extracted with ether. The extract is washed with water, dried and concentrated to remove solvent. The residue is purified by silica gel column chromatography, whereby methyl 2-ethylamino-2-(2-thienyl)butyrate (8.99 g) is obtained.

reactant | Methyl 2-amino-2-(2-thienyl)butyrate | 11.94 g | NC(C(=O)OC)(CC)C=1SC=CC1 | C9H13NO2S
reactant | ethyl iodide | 28.7 g | C(C)I | C2H5I
reactant | potassium carbonate | 37.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | hexamethylphosphoric triamide | 200 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | methyl 2-ethylamino-2-(2-thienyl)butyrate | 8.99 g | C(C)NC(C(=O)OC)(CC)C=1SC=CC1 | C11H17NO2S
